US05780498
To a suspension of sodium hydride (60% in oil: 0.82 g, 20.5 mmol) in dry DMF (4.5 ml) under nitrogen atmosphere is added imidazole (1.37 g, 20.1 mmol) with stirring at room temperature. After being stirred for 20 min. 4-bromobenzaldehyde dimethyl acetal (4.63 g, 20 mmol) and copper powder (0.13 g, 2.0 mmol) are added and the reaction mixture is stirred at 130° C. for 2 h, then at 150° C. for 2.5 h. The mixture is cooled to room temperature, diluted with chloroform and water. The solution is stirred for 1 h and filtered on Celite. The organic layer is separated, washed wit water, dried over sodium sulfate, and concentrated in vacuo. The residue is dissolved in 1N hydrochloric acid (20 ml) and stirred at room temperature for 4 h. The reaction mixture is diluted with 5N NaOH (4 ml), and extracted with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, and concentrated in vacuo. The solid obtained is washed with hexane and dried in vacuo to give 4-(1-imidazolyl)benzaldehyde.

reactant | sodium hydride | 20.5 mmol, 0.82 g | [H-].[Na+]
reactant | imidazole | 20.1 mmol, 1.37 g | N1C=NC=C1 | C3H4N2
reactant | 4-bromobenzaldehyde dimethyl acetal | 20 mmol, 4.63 g | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
catalyst | copper | 2.0 mmol, 0.13 g | [Cu] | Cu
product | 4-(1-imidazolyl)benzaldehyde | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
